US04340729
A solution of 860 g of 1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)-5-fluorouracil in 16 liters of methanol was added to sodium methoxide freshly prepared from 42 g of sodium and 2000 ml of methanol. The methyl acetate resulting during the reaction was removed by repeated concentration of the mixture. The mixture was neutralised by the addition of 1000 ml of a strongly acidic cation exchange resin (H+ -form), freshly washed with methanol. After removing the ion exchange resin, the methanolic solution was concentrated under reduced pressure and the product, which separated in crystalline form, was washed with a mixture, cooled to 0° C., of 1000 ml of methanol and 1000 ml of ethyl acetate. By working-up the mother liquors there was obtained a total of 680 g (97%) of pure 5'-deoxy-5-fluorouridine; m.p. 192°-193° C.; [β]D25 =+139° (c=0.9 in methanol).

reactant | 1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)-5-fluorouracil | 860 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)NC(=O)C(=C1)F | C13H15FN2O7
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 42 g | [Na] | Na
solvent | methanol | 16 liters | CO | CH4O
solvent | methanol | 2000 ml | CO | CH4O
product | 5'-deoxy-5-fluorouridine | 680 g, 97% | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
